US07199141B2
A) Synthesis of the 1-(N-tert-butoxycarbonylaminomethyl) cyclohexan acetic acid
To a solution of 1-(aminomethyl)cyclohexanacetic acid (10 g, 58.4 mmoles) in a mixture of dioxane (100 ml) and water (150 ml), triethylamine (16.27 ml, 116.8 mmoles) and di-tert-butyldicarbonate (15.3 g, 70 mmoles) are added. The reaction mixture is left at room temperature, under stirring for 4 hours. After the solution has been cooled to 0° C. it is brought to pH 2 with HCl 5%. The precipitate is filtered and dried under vacuum. 15 g of the expected product are obtained as a white solid having m.p.=125°–127° C.

reactant | 1-(aminomethyl)cyclohexanacetic acid | 58.4 mmoles, 10 g | NCC1(CCCCC1)CC(=O)O | C9H17NO2
reactant | triethylamine | 116.8 mmoles, 16.27 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 70 mmoles, 15.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 150 ml | O | H2O
product | 1-(N-tert-butoxycarbonylaminomethyl) cyclohexan acetic acid | 15 g | C(C)(C)(C)OC(=O)NCC1(CCCCC1)CC(=O)O | C14H25NO4
